US08389524B2
(1R)-1-({4-[(2,3-Dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride
A suspension of (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride (70 mg, 0.187 mmol) in chloroform (5 ml) and methanol (0.2 ml) at room temperature under argon was treated with triethylamine (0.078 ml, 0.561 mmol) and stirred for 0.25 h. Everything went into solution; 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carbaldehyde (for a synthesis see WO2004058144 Example 2(c) or WO03/087098 Example 19(d))) (30.9 mg, 0.187 mmol) was then added and the reaction was stirred at room temperature for 0.5 h. Sodium triacetoxyborohydride (119 mg, 0.561 mmol) was then added and the reaction was stirred at room temperature. After 1.5 h 1 eq more of sodium triacetoxyborohydride was added. After 1 h sat NaHCO3 (50 ml) was added followed by 20% MeOH/DCM (50 ml) and the aqueous layer was extracted and then separated from the organic layer. The aqueous layer was extracted again twice with 20% MeOH/DCM (2×50 ml). The combined organic extracts were dried on MgSO4, filtered and evaporated to afford 90 mg of crude product which was purified by silica chromatography using a 0-20% methanol/dichloromethane gradient to afford the free base of the title compound as a pale yellow gum (60 mg, 71%).

reactant | (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride | 0.187 mmol, 70 mg | Cl.Cl.NC1CCN(CC1)C[C@@H]1CN2C(C=NC=3C=CC(N1C23)=O)=O
reactant | triethylamine | 0.561 mmol, 0.078 ml | C(C)N(CC)CC | C6H15N
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carbaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | Sodium triacetoxyborohydride | 0.561 mmol, 119 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.2 ml | CO | CH4O
solvent | MeOH DCM | 50 ml | CO.C(Cl)Cl
product | (1R)-1-({4-[(2,3-Dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride | 60 mg, 71% | Cl.Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)C[C@@H]2CN1C(C=NC=3C=CC(N2C13)=O)=O | InChI=1S/C23H26N6O4.2ClH/c30-21-2-1-18-23-28(22(31)12-26-18)14-17(29(21)23)13-27-5-3-15(4-6-27)24-10-16-9-19-20(11-25-16)33-8-7-32-19;;/h1-2,9,11-12,15,17,24H,3-8,10,13-14H2;2*1H/t17-;;/m1../s1
